US06566535B1
Bromophenol (996 g, 5.76 mmol), bromopropane (790 ml, 8.70 mmol) and tetrabutylammonium hydrogensulfate (19.6 g, 48.9 mmol) were dissolved slowly in 5 L of dimethyl sulfoxide. A solution resulting from dissolving sodium hydroxide (2300 g, 57.6 mmol) in 2300 g of water was dropped slowly. Since heat was generated during the above operation, the solution was added so that the internal temperature was kept at 40-45° C. After stirring at room temperature for 1 hour, the mixture was cooled to 25° C. and then 6.7 L of water was added while keeping at 20-30° C. After addition of 12 L of toluene, 3 L of tetrahydrofuran and 3.3 L of water, phase separation was conducted. The organic layer was washed with 8 L of water, two 4.2 L portions of a 20% brine and 8 L of water. After vacuum concentration, the residue was distilled under reduced pressure to yield p-bromopropoxybenzene (b.p. 96-100° C./4 mmHg, 1182.5 g, Yield 95.5%) as a colorless oily matter.

reactant | Bromophenol | 5.76 mmol, 996 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | sodium hydroxide | 57.6 mmol, 2300 g | [OH-].[Na+]
reactant | toluene | 12 L | C1(=CC=CC=C1)C | C7H8
reactant | tetrahydrofuran | 3 L | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium hydrogensulfate | 48.9 mmol, 19.6 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethyl sulfoxide | 5 L | CS(=O)C | C2H6OS
solvent | water | 2300 g | O | H2O
catalyst | bromopropane | 8.70 mmol, 790 ml | BrCCC | C3H7Br
solvent | water | 3.3 L | O | H2O
solvent | water | 6.7 L | O | H2O
product | p-bromopropoxybenzene | 1182.5 g, Yield 95.5% | BrCCCOC1=CC=CC=C1 | C9H11BrO
